US04452809
Trans-4-phenoxy-1-phenylmethyl-3-pyrrolidinol
A mixture of 12.3 g. of 1-benzyl-3,4-epoxypyrrolidine, 13.2 g. of phenol and 3 drops of water was heated at 120° C. under nitrogen gas for 20 hr. The mixture was cooled and dissolved in 100 ml. ethyl ether. The ethereal solution was extracted with 2×50 ml. of 5% sodium hydroxide and then washed with water. After being dried with anhydrous sodium sulfate, the solvent was evaporated and the residue weighed 14.3 g. Two crystallizations from cyclohexane gave analytically pure product melting at 101°-104° C. The yield was 24% of theory.

reactant | 1-benzyl-3,4-epoxypyrrolidine | C(C1=CC=CC=C1)N1CC2C(C1)O2 | C11H13NO
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
catalyst | water | 3 drops | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | Trans-4-phenoxy-1-phenylmethyl-3-pyrrolidinol | yield was 24% | O(C1=CC=CC=C1)[C@H]1[C@@H](CN(C1)CC1=CC=CC=C1)O | C17H19NO2
